US04350634
N-phenylcarbamoyl-N'-[2-(3-indolyl)ethyl]-N'-methyl-1,3-diaminopropane
3 ml phenyl isocyanate are added dropwise between 5° and 10° and with stirring to a solution of 5.8 g N-[2-(3-indolyl)ethyl]-N-methyl-1,3-diaminopropane in 25 ml anhydrous dimethylformamide. The solution is stirred for an hour between 10° and 15° and evaporated. The residue is dried in high vacuum and chromatographed on silicagel using methylene chloride with 6 to 10% methanol, to yield the title compound (M.pt. of the hydrogen maleate 153°-155° with decomposition after crystallization from alcohol/acetone).

reactant | phenyl isocyanate | 3 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-[2-(3-indolyl)ethyl]-N-methyl-1,3-diaminopropane | 5.8 g | N1C=C(C2=CC=CC=C12)CCN(CCCN)C | C14H21N3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-phenylcarbamoyl-N'-[2-(3-indolyl)ethyl]-N'-methyl-1,3-diaminopropane | C1(=CC=CC=C1)NC(=O)NCCCN(C)CCC1=CNC2=CC=CC=C12 | C21H26N4O
